US08735399B2
To 2-(2-bromopyridin-3-yl)acetaldehyde (864 mg, 4.7 mmol) in THF (10 mL) at 0° C. was added (3-chlorophenyl)magnesium chloride (0.5M in THF, 14 mL, 7.04 mmol). The mixture was stirred at room temperature for 4 hours then treated with ammonium chloride (sat) at 0° C., extracted with ethyl acetate. The combined ethyl acetate layer was washed with brine, dried over magnesium sulfate and concentrated. Purification by chromatography on silica gel gave 2-(2-bromopyridin-3-yl)-1-(3-chlorophenyl)ethanol (490 mg, 35% yield) as white solid.

reactant | 2-(2-bromopyridin-3-yl)acetaldehyde | 4.7 mmol, 864 mg | BrC1=NC=CC=C1CC=O | C7H6BrNO
reactant | (3-chlorophenyl)magnesium chloride | 7.04 mmol, 0.5M, 14 mL | ClC=1C=C(C=CC1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(2-bromopyridin-3-yl)-1-(3-chlorophenyl)ethanol | 490 mg, 35% yield | BrC1=NC=CC=C1CC(O)C1=CC(=CC=C1)Cl | C13H11BrClNO
